US06653497B1
1,3-Bis-(4-cyanatophenyl)-2-propen-1-one
10 g (41.5 mmol) of 1,3-bis-(4-hydroxyphenyl)-2-propen-1-one were initially charged in a double-walled reactor (250 ml) fitted with stirrer, thermometer, gas inlet tube and a metering pump for liquors. After addition of 110 ml of anhydrous acetone, the solution was cooled to −10° C. Over a period of 10 minutes, 5.63 g (91.5 mmol) of cyanogen chloride were then introduced initially, followed by the metered addition, with vigorous stirring, of 8.55 g (84.5 mmol) of triethylamine at a flow rate of approximately 0.4 ml/min, during which the temperature of the reaction mixture was kept below −10° C. at all times. The reaction mixture was then warmed to 20° C. and stirred at this temperature for 30 minutes. Over a period of 10 minutes, the reaction mixture was subsequently added with vigorous stirring to 200 ml of water which had been cooled to 5° C. beforehand. The suspension was then stirred for 30 minutes, slowly warmed to 15° C. and filtered. The filter cake was washed with water (2×30 ml) and dried in a vacuum drying cabinet at 20 mbar/50° C. for 20 hours. In this manner, 11.03 g (92%) of cyanate having a melting point of 171-173° C. were isolated.

reactant | 1,3-bis-(4-hydroxyphenyl)-2-propen-1-one | 41.5 mmol, 10 g | OC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)O)=O | C15H12O3
reactant | acetone | 110 ml | CC(=O)C | C3H6O
reactant | cyanogen chloride | 91.5 mmol, 5.63 g | N#CCl | CClN
reactant | triethylamine | 84.5 mmol, 8.55 g | C(C)N(CC)CC | C6H15N
solvent | water | 200 ml | O | H2O
product | 1,3-Bis-(4-cyanatophenyl)-2-propen-1-one | 11.03 g, 92% | O(C#N)C1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)OC#N)=O | C17H10N2O3
